US07192950B2
N-Benzo[1,3]dioxol-5-ylmethyl-2-[1-(3,4-dimethoxy-benzyl)-8-isopropoxy-7-methoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-2-phenyl-acetamide
prepared by reaction of N-benzo[1,3]dioxol-5-ylmethyl-2-[1-(3,4-dimethoxy-benzyl)-8-hydroxy-7-methoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-2-phenyl-acetamide with 2-bromopropane.

reactant | N-benzo[1,3]dioxol-5-ylmethyl-2-[1-(3,4-dimethoxy-benzyl)-8-hydroxy-7-methoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-2-phenyl-acetamide | O1COC2=C1C=CC(=C2)CNC(C(C2=CC=CC=C2)N2C(C1=C(CCC2)C=C(C(=C1)O)OC)CC1=CC(=C(C=C1)OC)OC)=O | C36H38N2O7
reactant | 2-bromopropane | BrC(C)C | C3H7Br
product | N-Benzo[1,3]dioxol-5-ylmethyl-2-[1-(3,4-dimethoxy-benzyl)-8-isopropoxy-7-methoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-2-phenyl-acetamide | O1COC2=C1C=CC(=C2)CNC(C(C2=CC=CC=C2)N2C(C1=C(CCC2)C=C(C(=C1)OC(C)C)OC)CC1=CC(=C(C=C1)OC)OC)=O | C39H44N2O7
